US09107413B2
Preparation of (Z)-3-(2-isopropylphenyl)-5-methyl-2-((E)-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazono)-1,3-thiazinane (Compound 178C) (Synthesis Method J)
To (E)-N-(2-isopropylphenyl)-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinecarbothioamide (100 mg, 0.191 mmol) and potassium carbonate (105 mg, 0.763 mmol) in butanone (4 ml) was added 1-bromo-3-chloro-2-methylpropane (39.0 mg, 0.229 mmol). The reaction was heated to 80° C. overnight. The reaction mixture was then diluted with DCM and washed with water. The aqueous layer was extracted with DCM. The organic layers were poured through a phase separator and concentrated. Purification by flash column chromatography provided the title compound as a light yellow solid as a mixture of rotational diastereoisomers: mp 186-190° C.; 1H NMR (400 MHz, CDCl3) δ 8.55 (d, J=3.6 Hz, 1H), 8.14 (d, J=8.4 Hz, 2H), 8.06 (s, 1H), 7.84-7.77 (m, 2H), 7.74 (d, J=8.4 Hz, 2H), 7.38 (d, J=9.0 Hz, 3H), 7.32 (td, J=7.5, 1.4 Hz, 1H), 7.26 (s, 1H), 7.17 (t, J=7.1 Hz, 1H), 3.69-3.26 (m, 1H), 3.55-3.37 (m, 1H), 3.18-2.98 (m, 2H), 2.93-2.80 (m, 1H), 2.47 (d, J=35.9 Hz, 1H), 1.31-1.12 (m, 9H); ESIMS m/z 580 (M+H).

reactant | (E)-N-(2-isopropylphenyl)-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinecarbothioamide | 0.191 mmol, 100 mg | C(C)(C)C1=C(C=CC=C1)NC(=S)N/N=C/C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C26H23F3N6OS
reactant | potassium carbonate | 0.763 mmol, 105 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloro-2-methylpropane | 0.229 mmol, 39.0 mg | BrCC(CCl)C | C4H8BrCl
solvent | butanone | 4 ml | CC(CC)=O | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (Z)-3-(2-isopropylphenyl)-5-methyl-2-((E)-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazono)-1,3-thiazinane | C(C)(C)C1=C(C=CC=C1)N1\C(\SCC(C1)C)=N/N=C\C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C30H29F3N6OS
